US06472386B1
Synthesis of Ethyl 1-Methyl-5-(3,4,5-trimethoxyphenyl)-pyrazole-3-carboxylate
Ethyl 4-hydroxy-2-oxo-4-(3,4,5-trimethoxyphenyl)-3-butenoate (3.0 g) was dissolved in ethanol (30 mL), and to the solution methylhydrazine (468 mg) was added, and the mixture was stirred at 80° C. for 2 hours. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with ethyl acetate, washed with a saturated aqueous solution of sodium hydrogencarbonate and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was then purified by column chromatography on silica gel (hexane:ethyl acetate=2:1) to obtain the title compound.

reactant | Ethyl 4-hydroxy-2-oxo-4-(3,4,5-trimethoxyphenyl)-3-butenoate | 3.0 g | OC(=CC(C(=O)OCC)=O)C1=CC(=C(C(=C1)OC)OC)OC | C15H18O7
reactant | methylhydrazine | 468 mg | CNN | CH6N2
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | Ethyl 1-Methyl-5-(3,4,5-trimethoxyphenyl)-pyrazole-3-carboxylate | CN1N=C(C=C1C1=CC(=C(C(=C1)OC)OC)OC)C(=O)OCC | C16H20N2O5
